US06924400B2
(e) {4-[6-Ethyl-4′-(1-ethyl-1-hydroxypropyl)-2′-propylbiphenyl-3-yloxymethyl]-2-hydroxymethylphenyl}methanol
In a manner similar to that of Example 1(q), by reacting 830 mg (1.9 mmol) of 1-{5′-[3,4-bis(hydroxymethyl)benzyloxy]-2′-ethyl-2-propylbiphenyl-4-yl}-1-propanone with 5.1 ml (15.2 mmol) of ethylmagnesium bromide (3M/ether), and after purification by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (40/60), 700 mg (77%) of {4-[6-ethyl-4′-(1-ethyl-1-hydroxypropyl)-2′-propylbiphenyl-3-yloxymethyl]-2-hydroxymethylphenyl}methanol are obtained in the form of white crystals with a melting point of 101° C.

reactant | 1-{5′-[3,4-bis(hydroxymethyl)benzyloxy]-2′-ethyl-2-propylbiphenyl-4-yl}-1-propanone | 1.9 mmol, 830 mg | OCC=1C=C(COC=2C=CC(=C(C2)C2=C(C=C(C=C2)C(CC)=O)CCC)CC)C=CC1CO | C29H34O4
reactant | ethylmagnesium bromide | 15.2 mmol, 3M, 5.1 ml | C(C)[Mg]Br
product | {4-[6-Ethyl-4′-(1-ethyl-1-hydroxypropyl)-2′-propylbiphenyl-3-yloxymethyl]-2-hydroxymethylphenyl}methanol | C(C)C1=CC=C(C=C1C1=C(C=C(C=C1)C(CC)(O)CC)CCC)OCC1=CC(=C(C=C1)CO)CO | C31H40O4
